US07517987B2
Step V: (2S)-3-Methyl-2-(2-nitro-benzylamino)-butyric acid tert-butyl ester
To a solution of valine tert-butyl ester hydrochloride (1.5 g, 7.15 mmol) in EtOH (10 mL) was added triethylamine (2.09 mL, 15 mmol), followed after 10 minutes by 2-nitrobenzyl chloride (1.227 g, 7.15 mmol). The mixture was then stirred for 20 h under reflux before it was evaporated. The residue was purified by flash chromatograhy (petrol/ethyl acetate, 85/15) to afford the sub-title compound as a colorless oil (1.753 g, 80%). 1H NMR (400 MHz CDCl3) δ 0.93 (6H, m), 1.48 (9H, s), 1.83-1.96 (2H, m), 2.82 (1H, d), 3.92 (1H, d), 4.11 (1H, d), 7.39 (1H, t), 7.57 (1H, t), 7.65 (1H, d), 7.89 (1H, d).

reactant | valine tert-butyl ester hydrochloride | 7.15 mmol, 1.5 g | Cl.C(C)(C)(C)OC([C@@H](N)C(C)C)=O
reactant | triethylamine | 15 mmol, 2.09 mL | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzyl chloride | 7.15 mmol, 1.227 g | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
solvent | EtOH | 10 mL | CCO | C2H6O
product | (2S)-3-Methyl-2-(2-nitro-benzylamino)-butyric acid tert-butyl ester | 1.753 g, 80% | C(C)(C)(C)OC([C@H](C(C)C)NCC1=C(C=CC=C1)[N+](=O)[O-])=O | C16H24N2O4
